US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-(2-methyl-1,3-thiazol-4-yl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.256 mmol) in 1,4-dioxane (1.5 mL) was treated with 2-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-thiazole (0.281 mmol), dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium (II)-dichloromethane adduct (10 mg) and 2M aq potassium carbonate (0.767 mmol). The reaction mixture was purged with nitrogen, sealed, and irradiated in a microwave at 150° C. for 15 min. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH˜4 using 1N aq HCl and was extracted with dichloromethane. The organic layer was dried over sodium sulfate, treated with Si-Thiol (Silicycle, 20 mg), filtered, and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (25-55% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions from the HPLC were combined, adjusted to pH˜5 with the addition of saturated aq sodium bicarbonate, and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting product was then purified by flash chromatography (3-10% methanol/dichloromethane) to afford the title compound as an amorphous white solid (40%). MS(ES)+ m/e 486.2 [M+H]+.

reactant | 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.256 mmol | BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O | C17H19BrN4O2
reactant | 2-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-thiazole | 0.281 mmol | CC=1SC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H20BNO2S
reactant | potassium carbonate | 0.767 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium (II)-dichloromethane adduct | 10 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-(2-methyl-1,3-thiazol-4-yl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 40% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1N=C(SC1)C | C27H27N5O2S
